US07482366B2
Alternatively, 2-bromo-5-nitro-pyridine (1.22 g, 6.0 mmoles), TMS-acetylene (0.9 mL, 6.4 mmoles), CuI (11 mg, 0.06 mmoles) and dichlorobis(triphenylphosphine)palladium (II) (210 mg, 0.3 mmoles) were combined and flushed with dry nitrogen for 10 min. After this period the mix was solubilized with 24 mL of anhydrous triethylamine (degassed), and the mix was stirred at ambient temperature for 4 hours. After this period the reaction mix was evaporated in vacuo and purified directly using flash silica chromatography (0-10% EtOAc/Hexane) to yield 5-nitro-2-trimethylsilanylethynyl-pyridine as a brown solid. This material was dissolved into THF (10 mL) and to this solution was added 100 mg of TFAB (on silica gel, 1.0-1.5 mmole F/g resin). The solution was stirred at ambient temperature for 15 min. After this period the reaction mix was evaporated in vacuo purified directly using flash silica chromatography (0-20% EtOAc/Hexane) to yield 2-ethynyl-5-nitro-pyridine as a clear liquid. This product was combined with 10% Pd/C (90 mg) and ethanol (20 ml) and was flushed with dry nitrogen. After oxygen exclusion the stirring mix was flushed with H2 and stirred under H2 pressure (balloon) for 16 hours. After this period the reaction mixture was flushed with nitrogen and then filtered through Celite. The filtrate was evaporated in vacuo and purified using flash silica chromatography (0-10% MeOH/DCM w/0.1% diethylamine) to yield 6-ethyl-pyridin-3-ylamine (442 mg, 60%—3 steps) as a brownish residue. 1H-NMR (CDCl3): δ 8.05-8.02 (m, 1H), 6.96-6.93 (m, 2H), 3.55 (br s, 2H), 2.71 (q, J=7.3 Hz, 2H), 1.25 (t, J=7.3 Hz, 3H).

reactant | 2-bromo-5-nitro-pyridine | 6.0 mmoles, 1.22 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | TMS-acetylene | 6.4 mmoles, 0.9 mL | [Si](C)(C)(C)C#C | C5H10Si
catalyst | CuI | 0.06 mmoles, 11 mg | [Cu]I
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.3 mmoles, 210 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-nitro-2-trimethylsilanylethynyl-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)C#C[Si](C)(C)C | C10H12N2O2Si
